US07906517B2
2-Fluoro-5-trifluoromethyl-benzaldehyde (5.0 g) and butyl-ethyl-amine (3.95 g) are dissolved in toluene (50 ml) and thereto is added potassium carbonate (10.78 g) and the mixture is heated under reflux overnight. The reaction solution is cooled to room temperature, and thereto are added water and diethyl ether, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give 2-(butyl-ethyl-amino)-5-trifluoromethyl-benzaldehyde (6.54 g). MS (m/z): 274 [M+H]+

reactant | 2-Fluoro-5-trifluoromethyl-benzaldehyde | 5.0 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | butyl-ethyl-amine | 3.95 g | C(CCC)NCC | C6H15N
reactant | potassium carbonate | 10.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(butyl-ethyl-amino)-5-trifluoromethyl-benzaldehyde | 6.54 g | C(CCC)N(C1=C(C=O)C=C(C=C1)C(F)(F)F)CC | C14H18F3NO
